US05430042
Preparation of 5-Acetyl-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole
5-Acetyl-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole (3.75 g, 10 mmol) was dissolved in CH2Cl2 (70 ml). NaHCO3 (1.76 g, 21 mmol) in H2O (25 ml) was added and the mixture was cooled to ≈+3° C. m-Chloroperbenzoic acid 69.5% (2.43 g, 9.8 mmol) dissolved in CH2Cl2 (20 ml) was added dropwise under stirring. Stirring was continued for 10 min. The phases were separated and the organic phase was dried over Na2SO4 and evaporated under reduced pressure. The residue was crystallized from CH3CN giving the title compound (2.25 g, 60%).

reactant | 5-Acetyl-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 10 mmol, 3.75 g | C(C)(=O)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1C | C18H19N3O3S
reactant | NaHCO3 | 21 mmol, 1.76 g | C(=O)(O)[O-].[Na+]
reactant | m-Chloroperbenzoic acid | 9.8 mmol, 2.43 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 ml | O | H2O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-Acetyl-6-methyl-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | C(C)(=O)C1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2OC)OC)C=C1C | C18H19N3O4S
